US06204264B1
(2) 4-{[3-(Dimethylamino)propyl]amino}-N,N-dimethyl-3-nitrobenzamide
N,N-Dimethy-1,3-propanediamine (1.95 g) was added to 4-chloro-N,N-dimethyl-3-nitrobenzamide (2.18 g) and stirred for 2 hours at 90° C. The reaction mixture, with ethyl acetate added thereto, was washed with 1N sodium hydroxide aqueous solution, water and saturated brine successively, dried over sodium sulfate anhydride, and concentrated, thereby yielding the entitled compound (2.83 g) as yellowish orange oil.

reactant | N,N-Dimethy-1,3-propanediamine | 1.95 g | CN(CCCN)C | C5H14N2
reactant | 4-chloro-N,N-dimethyl-3-nitrobenzamide | 2.18 g | ClC1=C(C=C(C(=O)N(C)C)C=C1)[N+](=O)[O-] | C9H9ClN2O3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-{[3-(Dimethylamino)propyl]amino}-N,N-dimethyl-3-nitrobenzamide | 2.83 g | CN(CCCNC1=C(C=C(C(=O)N(C)C)C=C1)[N+](=O)[O-])C | C14H22N4O3
